US08980888B2
<Step 1> Synthesis of methyl 4-(5-cyclopropyl-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate
Cyclopropylboronic acid (61 mg), palladium acetate (11 mg), phosphoric acid potassium salts (203 mg), water (0.53 ml), and tricyclohexylphosphine (27 mg) were added to a toluene (6 ml) solution of the methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate (84 mg) obtained in (Example 1.4) <Step 1>, and the obtained mixture was then stirred in a nitrogen atmosphere at 100° C. for 1.5 hours. Thereafter, ethyl acetate (50 ml) and a saturated sodium hydrogen carbonate aqueous solution (30 ml) were added to the reaction solution. After extraction of organic layers, water layers were extracted with ethyl acetate (50 ml). The organic layers were combined. The combined organic layer was washed with a saturated saline, and was then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=93:7-40:60), so as to obtain the title compound (62 mg) in the form of a light brown solid.

reactant | Cyclopropylboronic acid | 61 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 27 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | methyl 4-(5-bromo-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 84 mg | BrC1=C(N=C(S1)C=1C=NN(C1C(=O)OC)C)C(F)F | C10H8BrF2N3O2S
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
catalyst | palladium acetate | 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.53 ml | O | H2O
product | methyl 4-(5-cyclopropyl-4-(difluoromethyl)thiazol-2-yl)-1-methyl-1H-pyrazole-5-carboxylate | 62 mg | C1(CC1)C1=C(N=C(S1)C=1C=NN(C1C(=O)OC)C)C(F)F | C13H13F2N3O2S
